US08729105B2
Preparation of 5-(3,4-difluorophenyl)-6-(2-methoxyethoxy)-N-((3-(trifluoromethyl)-1,2,4-oxadiazol-5-yl)methyl)nicotinamide
The title compound was synthesized in analogy to Example 1 using 5-(3,4-difluorophenyl)-6-(2-methoxyethoxy)-nicotinic acid (example CE) and 3-trifluoromethyl-[1,2,4]oxadiazol-5-methanamine (example AK) as starting materials; LC-MS (UV peak area/ESI) 87.6%, 459.1 (M+H)+.

reactant | 5-(3,4-difluorophenyl)-6-(2-methoxyethoxy)-nicotinic acid | FC=1C=C(C=CC1F)C=1C(=NC=C(C(=O)O)C1)OCCOC | C15H13F2NO4
reactant | 3-trifluoromethyl-[1,2,4]oxadiazol-5-methanamine | FC(C1=NOC(=N1)CN)(F)F | C4H4F3N3O
product | 5-(3,4-difluorophenyl)-6-(2-methoxyethoxy)-N-((3-(trifluoromethyl)-1,2,4-oxadiazol-5-yl)methyl)nicotinamide | FC=1C=C(C=CC1F)C=1C(=NC=C(C(=O)NCC2=NC(=NO2)C(F)(F)F)C1)OCCOC | C19H15F5N4O4
